US05574042
To a mixture of 2,6-dichloro-3-isopropoxybenzyl alcohol (1.65 g) and triethylamine (808 mg) in dichloromethane was added methanesulfonyl chloride (884 mg) in a few minutes at 5° C. After stirring for half an hour at 5° C., the mixture was washed with diluted hydrochloric acid and then with aqueous sodium bicarbonate solution, dried, and concentrated in vacuo. The residue was crystallized from n-hexane to give 2,6-dichloro-3-isopropoxybenzyl methanesulfonate (2.07 g).

reactant | 2,6-dichloro-3-isopropoxybenzyl alcohol | 1.65 g | ClC1=C(CO)C(=CC=C1OC(C)C)Cl | C10H12Cl2O2
reactant | triethylamine | 808 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 884 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2,6-dichloro-3-isopropoxybenzyl methanesulfonate | 2.07 g | CS(=O)(=O)OCC1=C(C(=CC=C1Cl)OC(C)C)Cl | C11H14Cl2O4S
